US09340527B2
6-((tert-butyldimethylsilyl)oxy)quinoline-2-carbaldehyde (5.74 g, 20 mmol), AcOH (3.6 g, 60 mmol, 3 eq) and ethyl 4-piperidinecarboxylate (6.28 g, 40 mmol, 2 eq) in DCE (100 mL) were stirred at room temperature for 30 min. Then NaBH(OAc)3 (12.7 g, 60 mmol, 3 eq) was added to the mixture at room temperature and stirred for 3 h. The reaction mixture was quenched with water (300 mL), and adjusted to pH=8 with conc. aq. NH3 solution. Then the mixture was extracted with DCM (3×400 mL). The combined organic layer was washed by brine (300 mL), dried (Na2SO4) and concentrated. The crude product was purified by silica gel chromatography (PE:EA=4:1) to give ethyl 1-((6-((tert-butyldimethylsilyl)oxy)quinolin-2-yl)methyl)piperidine-4-carboxylate as yellow oil (6.65 g, yield: 77%). ESI-MS (M+H)+: 429.3. 1H NMR (400 MHz, CDCl3) δ: 7.97 (d, J=8.4 Hz, 1H), 7.94 (d, J=9.2 Hz, 1H), 7.57 (d, J=8.4 Hz, 1H), 7.27 (dd, J=9.2, 2.4 Hz, 1H), 7.12 (d, J=2.8 Hz, 1H), 4.12 (q, J=7.2 Hz, 2H), 3.78 (s, 2H), 2.92-2.89 (m, 2H), 2.30-2.25 (m, 1H), 2.20-2.15 (m, 2H), 1.91-1.79 (m, 4H), 1.25 (t, J=7.2 Hz, 3H), 1.02 (s, 9H), 0.25 (s, 6H).

reactant | 6-((tert-butyldimethylsilyl)oxy)quinoline-2-carbaldehyde | 20 mmol, 5.74 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=NC2=CC1)C=O | C16H21NO2Si
reactant | AcOH | 60 mmol, 3.6 g, 3 eq | CC(=O)O | C2H4O2
reactant | ethyl 4-piperidinecarboxylate | 40 mmol, 6.28 g, 2 eq | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | NaBH(OAc)3 | 60 mmol, 12.7 g, 3 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 100 mL | ClCCCl | C2H4Cl2
product | ethyl 1-((6-((tert-butyldimethylsilyl)oxy)quinolin-2-yl)methyl)piperidine-4-carboxylate | 6.65 g, yield: 77% | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=NC2=CC1)CN1CCC(CC1)C(=O)OCC | C24H36N2O3Si
